US05130322
A mixture of 23.1 g of 2-methoxymethyl-2-methyl3,4-epoxy-6-cyanochroman, 9.5 g of 1H-2-pyridone, 12 ml of pyridine and 600 ml of ethanol is boiled for 72 hours. About 300 ml are removed by distillation, the mixture is cooled and filtered, the solution is evaporated and the residue is worked up in the customary manner. 2-Methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-cyano3-chromanol, stereoisomer mixture ("A") is obtained, which can be separated into isomer "Al" (CH3 and OH in the cis-position; m.p. 216°-218° C.) and isomer "A2" (CH3 and OH in the trans-position; m.p. 210°-212° C.) by chromatography (silica gel; ethyl acetate/methanol).

reactant | 2-methoxymethyl-2-methyl3,4-epoxy-6-cyanochroman | 23.1 g | COCC1(OC2=CC=C(C=C2C2C1O2)C#N)C | C13H13NO3
reactant | 1H-2-pyridone | 9.5 g | N1C(C=CC=C1)=O | C5H5NO
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-Methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-cyano3-chromanol | COCC1(OC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)C#N)C | C18H18N2O4
